US09029374B2
3-chloro-2-fluoroaniline (0.239 mL, 2.17 mmol) was added to a stirred suspension of methyl 8-(1-bromoethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylate (215 mg, 0.54 mmol) dissolved in DCM (3 mL) at room temperature. The resulting suspension was stirred for 16 hrs then the temperature was increased to 50° C. for 16 hrs. The crude product was purified by flash chromatography on silica gel eluting with 5% methanol in DCM. The solvent was evaporated to dryness to afford methyl 8-(1-(3-chloro-2-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylate (206 mg, 82%) as a white solid. Mass Spectrum: M+H+ 461.

reactant | 3-chloro-2-fluoroaniline | 2.17 mmol, 0.239 mL | ClC=1C(=C(N)C=CC1)F | C6H5ClFN
reactant | methyl 8-(1-bromoethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylate | 0.54 mmol, 215 mg | BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)OC | C17H18BrNO5
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | methyl 8-(1-(3-chloro-2-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylate | 206 mg, 82% | ClC=1C(=C(C=CC1)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)OC)F | C23H22ClFN2O5
